US03994858
a. 3-(β-Chloroethyl)-5,5-dimethyl-hydantoin
A mixture of 1,664 g of 5,5-dimethyl-hydantoin (13.0 mols), 897 g of anhydrous potassium carbonate (6.5 mols), 5,148 g of 1,2-dichloroethane (52 mols) and 1,458 ml of dimethylformamide is reacted for 18 hours and 20 minutes at 90° C to 100° C internal temperature (external temperature 155° C), whilst constantly removing the resulting water of reaction by azeotropic circulatory distillation. Water of reaction eliminated: 110 g (94.0% of theory). Thereafter the reaction mixture, whilst still hot, is separated by filtration from the potassium chloride produced, the filtrate concentrated on a rotary evaporator at 100° C and the residue is dried to constant weight at 100° C and 10-1 mm Hg.

reactant | 5,5-dimethyl-hydantoin | 13.0 mols, 1,664 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | potassium carbonate | 6.5 mols, 897 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dichloroethane | 52 mols, 5,148 g | ClCCCl | C2H4Cl2
solvent | dimethylformamide | 1,458 ml | CN(C=O)C | C3H7NO
product | 3-(β-Chloroethyl)-5,5-dimethyl-hydantoin | ClCCN1C(NC(C1=O)(C)C)=O | C7H11ClN2O2
